US08808703B2
To a solution of diethyl 2-(2-(2-iodoethoxy)ethoxy)ethylphosphonate (1 eq) in EtOH (0.2 M) was added sodium azide (5 eq) in water (1.4 M). The reaction mixture was heated at reflux overnight. The mixture was then diluted with water, extracted with EtOAc (3 times). The combined organic layers were washed brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% MeOH/DCM to give diethyl 2-(2-(2-azidoethoxy)ethoxy)ethylphosphonate as colorless oil.

reactant | diethyl 2-(2-(2-iodoethoxy)ethoxy)ethylphosphonate | 1 eq | ICCOCCOCCP(OCC)(OCC)=O | C10H22IO5P
reactant | sodium azide | 5 eq | [N-]=[N+]=[N-].[Na+]
solvent | EtOH | 0.2 M | CCO | C2H6O
solvent | water | 1.4 M | O | H2O
product | diethyl 2-(2-(2-azidoethoxy)ethoxy)ethylphosphonate | N(=[N+]=[N-])CCOCCOCCP(OCC)(OCC)=O | C10H22N3O5P
